US04335055
The procedure described in Example 1 is followed, except that 8.43 g (0.05 mol) of 4-formylbenzoyl chloride, 6.5 g (0.0625 mol) of styrene, 17.5 g (0.05 mol) of tri-n-octylamine, 100 ml of dioxane as the solvent and 0.287 g (0.0005 mol) of bis-(dibenzylideneacetone)-palladium(O) are used. After a reaction time of 2 hours at 120° C., 5.8 g (0.0279 mol) of 4-formylstilbene, corresponding to a yield of 56% of theory, are obtained as yellowish crystals; melting point 112°-113° C.

reactant | 4-formylbenzoyl chloride | 0.05 mol, 8.43 g | C(=O)C1=CC=C(C(=O)Cl)C=C1 | C8H5ClO2
reactant | styrene | 0.0625 mol, 6.5 g | C=CC1=CC=CC=C1 | C8H8
reactant | tri-n-octylamine | 0.05 mol, 17.5 g | C(CCCCCCC)N(CCCCCCCC)CCCCCCCC | C24H51N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4-formylstilbene | 0.0279 mol, 5.8 g, yield of 56% | C(=O)C1=CC=C(C=C1)C=CC1=CC=CC=C1 | C15H12O
